US04792561
To a solution of 1.5 g of 6-[2-(imidazol-1-yl)ethenyl]-3,4-dihydrocarbostyril in 15 ml of N,N-dimethylformamide was added 7.0 g of freshly prepared nickel peroxide. The suspension was stirred under nitrogen for 72 hours at room temperature, then filtered and solvent removed from the filtrate under reduced pressure. The residue was chromatographed on silica gel, eluting with 5% methanol in methylene chloride, to give 6-[2-(imidazol-1-yl)ethenyl]carbostyril, m.p. 211°-213° C.

reactant | 6-[2-(imidazol-1-yl)ethenyl]-3,4-dihydrocarbostyril | 1.5 g | N1(C=NC=C1)C=CC=1C=C2CCC(NC2=CC1)=O | C14H13N3O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | nickel peroxide | [O-2].[O-2].[O-2].[Ni+3].[Ni+3]
product | 6-[2-(imidazol-1-yl)ethenyl]carbostyril | N1(C=NC=C1)C=CC=1C=C2C=CC(NC2=CC1)=O | C14H11N3O
